US04448962
A mixture of 1-ethyl-1,4-dihydro-6-fluoro-4-oxo-7-(1-piperazinyl)quinoline-3-carboxylic acid 0.5 g, 3-hydroxyphthalide 0.24 g and dimethylformamide 5 ml was heated at 100°-110° C. for 3 hours under stirring. After cooling, ethanol was added, and the insoluble matters were collected by filtration. The precipitates obtained were washed with ethanol and dried. 0.70 g (99%) of 1-ethyl-1,4-dihydro-6-fluoro-4-oxo-7-(4-phthalidyl-1-piperazinyl)quinoline-3-carboxylic acid was obtained as colorless powders.

reactant | 1-ethyl-1,4-dihydro-6-fluoro-4-oxo-7-(1-piperazinyl)quinoline-3-carboxylic acid | 0.5 g | C(C)N1C=C(C(C2=CC(=C(C=C12)N1CCNCC1)F)=O)C(=O)O | C16H18FN3O3
reactant | 3-hydroxyphthalide | 0.24 g | OC1OC(=O)C2=CC=CC=C12 | C8H6O3
reactant | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | ethanol | C(C)O | C2H6O
product | 1-ethyl-1,4-dihydro-6-fluoro-4-oxo-7-(4-phthalidyl-1-piperazinyl)quinoline-3-carboxylic acid | 0.70 g, 99% | C(C)N1C=C(C(C2=CC(=C(C=C12)N1CCN(CC1)C1OC(=O)C2=CC=CC=C12)F)=O)C(=O)O | C24H22FN3O5
